US04188325
A solution of 5-methoxy-3-methylthiooxindole (420 mg, 2 mmol) and N-chlorosuccinimide (270 mg, 2 mmol) in carbon tetrachloride (74 ml) was stirred at room temperature for 1 hour. The precipitate was removed by filtration and the filtrate was evaporated to dryness, yielding crude 3-chloro-5-methoxy-3-methylthiooxindole. The residue was dissolved in tetrahydrofuran (10 ml) and added to a vigorously stirred slurry of red mercuric oxide (435 mg, 2 mmol) and boron trifluoride etherate (290 mg, 2 mmol) in aqueous 20 percent tetrahydrofuran (40 ml). The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through a pad of Celite and the filtrate was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was purified by column chromatography on silica gel to give 5-methoxyisatin (287 mg, 81%), mp 202°-204° (recrystallized from benzene).

reactant | 5-methoxy-3-methylthiooxindole | 2 mmol, 420 mg | COC=1C=C2C(C(NC2=CC1)=S)C | C10H11NOS
reactant | N-chlorosuccinimide | 2 mmol, 270 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 74 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-5-methoxy-3-methylthiooxindole | ClC1(C(NC2=CC=C(C=C12)OC)=S)C | C10H10ClNOS
